US06555541B1
To a solution of 4-(3-{2-[tert-butoxycarbonyl-(3,4-difluoro-phenyl)-amino]-acetylamino}-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (160 mg) in toluene (4 ml) was added Lawesson's reagent (100 mg) and the reaction heated at 100° C. for 2.5 hr. After cooling to room temperature, the solvent was removed in vacuo to afford a yellow powder. Purification by NPHPLC (0-5% MeOH in CH2Cl2) afforded 4-(3-{2-[tert-butoxycarbonyl-(3,4-difluoro-phenyl)-amino]-thioacetylamino}-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (120 mg). This was taken up in CH2Cl2 (1 ml) and trifluoroacetic acid (0.63 ml) added. After 2 hr stirring the reaction was poured into aqueous K2CO3 and the organic layer was separated, washed with aqueous K2CO3 and brine, dried (Na2SO4) and concentrated to leave yellow crystals. They were purified further by reverse phase HPLC to afford the title compound (14 mg).

reactant | 4-(3-{2-[tert-butoxycarbonyl-(3,4-difluoro-phenyl)-amino]-acetylamino}-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 160 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C)NC(CN(C1=CC(=C(C=C1)F)F)C(=O)OC(C)(C)C)=O | C30H40F2N4O5
reactant | Lawesson's reagent | 100 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-{2-[tert-butoxycarbonyl-(3,4-difluoro-phenyl)-amino]-thioacetylamino}-4-methyl-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 120 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)C)NC(CN(C1=CC(=C(C=C1)F)F)C(=O)OC(C)(C)C)=S | C30H40F2N4O4S
